US06150373
A mixture of 200 mg (0.48 mmol) of 3-(2,4,6-trichlorophenyl)-7-methanesulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one and 300 mg (1.4 mmol) of 4-[2-(diethylamino)ethoxy]aniline was heated at 180° C. for 30 minutes. The mixture was cooled and the product purified by column chromatography on silica gel using dichloromethane/methanol/acetic acid/water (240:24:3:2) for the elution. Product-containing fractions were combined, evaporated and the residue evaporated with toluene. The residue was then dissolved in 40 ml of dichloromethane, washed with 40 ml of saturated aqueous sodium bicarbonate solution, dried over magnesium sulfate, filtered and evaporated to afford 45 mg (17%) of 3-(2,4,6-trichlorophenyl)-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one as a white solid of melting point 142° C.

reactant | 3-(2,4,6-trichlorophenyl)-7-methanesulfonyl-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 0.48 mmol, 200 mg | ClC1=C(C(=CC(=C1)Cl)Cl)N1C(N(C2=NC(=NC=C2C1)S(=O)(=O)C)C)=O | C14H11Cl3N4O3S
reactant | 4-[2-(diethylamino)ethoxy]aniline | 1.4 mmol, 300 mg | C(C)N(CCOC1=CC=C(N)C=C1)CC | C12H20N2O
product | 3-(2,4,6-trichlorophenyl)-7-[4-[2-(diethylamino)ethoxy]anilino]-3,4-dihydro-1-methylpyrimido[4,5-d]pyrimidin-2(1H)-one | 45 mg, 17% | ClC1=C(C(=CC(=C1)Cl)Cl)N1C(N(C2=NC(=NC=C2C1)NC1=CC=C(C=C1)OCCN(CC)CC)C)=O | C25H27Cl3N6O2
